US07807709B2
1-(4-Hydroxymethyl-piperidin-1-yl)-ethanone
The title compound is prepared analogously as described for N-(2-hydroxy-1,1-dimethyl-ethyl)-acetamide from piperidin-4-yl-methanol. MS (LC-MS): [M+H]+=158.3. tR (HPLC, Waters Symmetry C18 column, 5-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 0.39 min.

reactant | N-(2-hydroxy-1,1-dimethyl-ethyl)-acetamide | OCC(C)(C)NC(C)=O | C6H13NO2
reactant | piperidin-4-yl-methanol | N1CCC(CC1)CO | C6H13NO
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | 1-(4-Hydroxymethyl-piperidin-1-yl)-ethanone | OCC1CCN(CC1)C(C)=O | C8H15NO2
